US04298739
2.5 Grams of 6-(3-carboxy)propoxy-3,4-dihydrocarbostyril and 1.6 ml of triethylamine are added to 200 ml of ethyl acetate, and then 1.0 ml of ethyl chloroformate is added dropwise to this solution under external ice cooling and agitation while maintaining the internal temperature at 10°-20° C. After addition, the mixture is further agitated at room temperature for 1 hour and then added with 1.1 ml of N-methylaniline, followed by additional 2-hour agitation. The reaction solution is added with water, and after liquid separation, the organic layer is washed with a dilute aqueous NaOH solution, diluted hydrochloric acid and water in that order and then dried with anhydrous Na2SO4. After filtering out the inorganic matter, the mother liquor is concentrated and the residue is recrystallized from chloroform-petroleum ether to obtain 2.2 g of 6-[3-(N-methylanilinocarbonyl)propoxy]-3,4-dihydrocarbostyril in the form of colorless needlelike crystals, m.p. 129.5°-131.5° C.

reactant | 6-(3-carboxy)propoxy-3,4-dihydrocarbostyril | C(=O)(O)CCCOC=1C=C2CCC(NC2=CC1)=O | C13H15NO4
reactant | triethylamine | 1.6 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.0 ml | ClC(=O)OCC | C3H5ClO2
reactant | N-methylaniline | 1.1 ml | CNC1=CC=CC=C1 | C7H9N
solvent | water | O | H2O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 6-[3-(N-methylanilinocarbonyl)propoxy]-3,4-dihydrocarbostyril | 2.2 g | CN(C1=CC=CC=C1)C(=O)CCCOC=1C=C2CCC(NC2=CC1)=O | C20H22N2O3
